US07615532B2
Octadecanedioic acid (5.64 g, 17.9 mmol) was dissolved in toluene (80 ml) at 115° C. N,N-dimethylformamide di-tert-butylacetal (12.9 ml, 53.8 mmol) was added drop-wise over 1.5 h. After refluxing for 3 h more N,N-dimethylformamide di-tert-butylacetal (2.15 ml) was added over 20 min. Reflux was continued over night and more N,N-dimethylformamide di-tert-butylacetal (2.15 ml) was added over 20 min. After stirring for another 2 h. the reaction mixture was cooled to RT. Water and DCM was added. The diacid can was removed by filtration. The filtrate was concentrated on silica gel (40 g) and purified on a 1.5 L silicagel column using DCM/MeOH 14:1. Octadecanedioic acid mono-tert-butyl ester was isolated in 53% yield (3.52 g).

reactant | Octadecanedioic acid | 17.9 mmol, 5.64 g | C(CCCCCCCCCCCCCCCCC(=O)O)(=O)O | C18H34O4
reactant | N,N-dimethylformamide di-tert-butylacetal | 53.8 mmol, 12.9 ml | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
reactant | N,N-dimethylformamide di-tert-butylacetal | 2.15 ml | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
reactant | N,N-dimethylformamide di-tert-butylacetal | 2.15 ml | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
reactant | Water | O | H2O
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | Octadecanedioic acid mono-tert-butyl ester | 53% yield | C(C)(C)(C)OC(CCCCCCCCCCCCCCCCC(=O)O)=O | C22H42O4
